### PR TITLE
[Merged by Bors] - feat(Combinatorics): a clique has size at most the chromatic number

### PR DESCRIPTION
**Pull request by YaelDillies**
There already exists a version of this lemma for cliques given by a set, but it's impractical to provide an explicit clique on an explicit graph as a set, rather than an indexed family, especially because computing the size of the set would then involve proving that it is the range of an injective function, even though being a clique already implies being injective!

Application: google-deepmind/formal-conjectures#1369

Also rename `coloringOfIsEmpty` and `colorable_of_isEmpty` to leverage anonymous dot notation, and make more arguments implicit.

From FormalConjectures

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 1]
```diff
@@ -195,6 +195,8 @@ theorem adj_congr_of_sym2 {u v w x : V} (h : s(u, v) = s(w, x)) : G.Adj u v ↔
   · rw [hl.1, hl.2]
   · rw [hr.1, hr.2, adj_comm]
 
+instance isSymm_adj (f : ι → V) : IsSymm ι fun i j ↦ G.Adj (f i) (f j) where symm _ _ := .symm
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean]:
```suggestion
instance (f : ι → V) : Std.Symm (G.Adj on f) where symm _ _ := .symm
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 2]
```diff
@@ -74,11 +74,15 @@ This is also known as a proper coloring.
...
 variable {G}
-variable {α β : Type*} (C : G.Coloring α)
+variable {ι α β : Type*} (C : G.Coloring α)
 
 theorem Coloring.valid {v w : V} (h : G.Adj v w) : C v ≠ C w :=
   C.map_rel h
 
+lemma Coloring.injective_comp_of_pairwise_adj (C : G.Coloring α) (f : ι → V)
+    (hf : Pairwise fun i j ↦ G.Adj (f i) (f j)) : (C ∘ f).Injective :=
+  Function.injective_iff_pairwise_ne.2 fun _i _j hij ↦ C.valid <| hf hij
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring.lean]:
```suggestion
lemma Coloring.comp_injective_of_pairwise_adj (C : G.Coloring α) (f : ι → V)
    (hf : Pairwise (G.Adj on f)) : (C ∘ f).Injective :=
  Function.injective_iff_pairwise_ne.2 <| hf.mono fun _ _ ↦ C.valid
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 3]
```diff
@@ -129,11 +133,11 @@ instance [DecidableEq α] {c : α} :
     DecidablePred (· ∈ C.colorClass c) :=
   inferInstanceAs <| DecidablePred (· ∈ { v | C v = c })
 
-variable (G)
-
+variable (G) in
 /-- Whether a graph can be colored by at most `n` colors. -/
 def Colorable (n : ℕ) : Prop := Nonempty (G.Coloring (Fin n))
 
+variable (G) in
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring.lean]:
```suggestion
variable (G α) in
```
and `variable (G) in` for `colorable_of_isEmpty` below this

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 4]
```diff
@@ -153,35 +157,52 @@ lemma colorable_zero_iff : G.Colorable 0 ↔ IsEmpty V :=
 
 /-- If `G` is `n`-colorable, then mapping the vertices of `G` produces an `n`-colorable simple
 graph. -/
-theorem Colorable.map {β : Type*} (f : V ↪ β) [NeZero n] {G : SimpleGraph V} (hc : G.Colorable n) :
+theorem Colorable.map {β : Type*} (f : V ↪ β) [NeZero n] (hc : G.Colorable n) :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring.lean]:
```suggestion
theorem Colorable.map (f : V ↪ β) [NeZero n] (hc : G.Colorable n) :
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 5]
```diff
@@ -153,35 +157,52 @@ lemma colorable_zero_iff : G.Colorable 0 ↔ IsEmpty V :=
...
     (G.map f).Colorable n := by
   obtain ⟨C⟩ := hc
   use extend f C (const β default)
   intro a b ⟨_, _, hadj, ha, hb⟩
   rw [← ha, f.injective.extend_apply, ← hb, f.injective.extend_apply]
   exact C.valid hadj
 
+lemma Colorable.card_le_of_pairwise_adj (hG : G.Colorable n) (f : ι → V)
+    (hf : Pairwise fun i j ↦ G.Adj (f i) (f j)) : Nat.card ι ≤ n := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring.lean:168]:
```suggestion
lemma Colorable.card_le_of_pairwise_adj (hG : G.Colorable n) (f : ι → V)
    (hf : Pairwise (G.Adj on f)) : Nat.card ι ≤ n := by
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 6]
```diff
@@ -153,35 +157,52 @@ lemma colorable_zero_iff : G.Colorable 0 ↔ IsEmpty V :=
...
+
+lemma le_chromaticNumber_iff_coloring :
+    n ≤ G.chromaticNumber ↔ ∀ m, G.Coloring (Fin m) → n ≤ m := by
+  simp [le_chromaticNumber_iff_colorable, Colorable]
 
-lemma chromaticNumber_eq_iInf {G : SimpleGraph V} :
-    G.chromaticNumber = ⨅ n : {m | G.Colorable m}, (n : ℕ∞) := by
+lemma le_chromaticNumber_of_pairwise_adj (hn : n ≤ Nat.card ι) (f : ι → V)
+    (hf : Pairwise fun i j ↦ G.Adj (f i) (f j)) : n ≤ G.chromaticNumber :=
+  le_chromaticNumber_iff_colorable.2 fun _m hm ↦ hn.trans <| hm.card_le_of_pairwise_adj f hf
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring.lean:192]: This is `Nat.card ι ≤ G.chromaticNumber` combined with an `le_trans`, but the caller can use transitivity if needed
```suggestion
lemma card_le_chromaticNumber_of_pairwise_adj (f : ι → V) (hf : Pairwise (G.Adj on f)) :
    Nat.card ι ≤ G.chromaticNumber :=
  le_chromaticNumber_iff_colorable.2 fun _m hm ↦ hm.card_le_of_pairwise_adj f hf
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 7]
```diff
@@ -153,35 +157,52 @@ lemma colorable_zero_iff : G.Colorable 0 ↔ IsEmpty V :=
...
+
+lemma chromaticNumber_eq_biInf : G.chromaticNumber = ⨅ n ∈ setOf G.Colorable, (n : ℕ∞) := rfl
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring.lean:195]:
```suggestion
variable (G) in
lemma chromaticNumber_eq_biInf : G.chromaticNumber = ⨅ n ∈ setOf G.Colorable, (n : ℕ∞) := rfl
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 8]
```diff
@@ -153,35 +157,52 @@ lemma colorable_zero_iff : G.Colorable 0 ↔ IsEmpty V :=
...
+
+lemma chromaticNumber_eq_iInf : G.chromaticNumber = ⨅ n : {m | G.Colorable m}, (n : ℕ∞) := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring.lean:198]:
```suggestion
variable (G) in
lemma chromaticNumber_eq_iInf : G.chromaticNumber = ⨅ n : {m | G.Colorable m}, (n : ℕ∞) := by
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 9]
```diff
@@ -153,35 +157,52 @@ lemma colorable_zero_iff : G.Colorable 0 ↔ IsEmpty V :=
...
   rw [chromaticNumber, iInf_subtype]
 
 lemma Colorable.chromaticNumber_eq_sInf {G : SimpleGraph V} {n} (h : G.Colorable n) :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring.lean]:
```suggestion
lemma Colorable.chromaticNumber_eq_sInf (h : G.Colorable n) :
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 10]
```diff
@@ -502,31 +526,17 @@ theorem CompleteBipartiteGraph.chromaticNumber {V W : Type*} [Nonempty V] [Nonem
 
 /-! ### Cliques -/
 
+theorem IsClique.card_le_of_colorable {s : Finset V} (h : G.IsClique s) {n : ℕ}
+    (hc : G.Colorable n) : s.card ≤ n := by
+  simpa using hc.card_le_of_pairwise_adj (Subtype.val : s → V) <| by simpa [Pairwise] using h
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring.lean]:
```suggestion
theorem IsClique.card_le_of_colorable {s : Finset V} (h : G.IsClique s) (hc : G.Colorable n) :
    s.card ≤ n := by
  simpa using hc.card_le_of_pairwise_adj _ <| s.pairwise_subtype_iff_pairwise_finset _ |>.mpr h
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 11]
```diff
@@ -502,31 +526,17 @@ theorem CompleteBipartiteGraph.chromaticNumber {V W : Type*} [Nonempty V] [Nonem
...
-  have f : G.induce ↑s ↪g G := Embedding.comap (Function.Embedding.subtype fun x => x ∈ ↑s) G
-  rw [h] at f
-  convert Fintype.card_le_of_injective _ (C.comp f.toHom).injective_of_top_hom using 1
-  simp
-
-theorem IsClique.card_le_of_colorable {s : Finset V} (h : G.IsClique s) {n : ℕ}
-    (hc : G.Colorable n) : s.card ≤ n := by
-  convert h.card_le_of_coloring hc.some
-  simp
+  simpa using h.card_le_of_colorable C.colorable
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring.lean]:
```suggestion
  exact h.card_le_of_colorable C.colorable
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 12]
```diff
@@ -502,31 +526,17 @@ theorem CompleteBipartiteGraph.chromaticNumber {V W : Type*} [Nonempty V] [Nonem
...
-  · rw [hc]
-    exact le_top
-  · have hc' := hc
-    rw [chromaticNumber_ne_top_iff_exists] at hc'
-    obtain ⟨n, c⟩ := hc'
-    rw [← ENat.coe_toNat_eq_self] at hc
-    rw [← hc, Nat.cast_le]
-    exact h.card_le_of_colorable (colorable_chromaticNumber c)
+    s.card ≤ G.chromaticNumber :=
+  le_chromaticNumber_of_pairwise_adj (by simp) (Subtype.val : s → V) <| by simpa [Pairwise] using h
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring.lean:538]:
```suggestion
    s.card ≤ G.chromaticNumber := by
  simpa using card_le_chromaticNumber_of_pairwise_adj _ <|
    s.pairwise_subtype_iff_pairwise_finset _ |>.mpr h
```

**Review by SnirBroshi — APPROVED** [review]
Cool golf!

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean]: This is a bad idea, because it changes the syntactic form to one which is used less

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Coloring.lean]: Again, I am not a huge fan of using `on` in such cases where it gains basically nothing. I've taken the golf though

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Coloring.lean]: `α` being implicit here is pre-existing

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Coloring.lean:168]: Again, don't really want to do that

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Coloring.lean:195]: Just FYI, making `x : Foo` explicit in lemma `Foo.bar` has limited use since `y.bar` is the same as `Foo.bar (x := y)`.

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Coloring.lean:538]: This one doesn't really look like an improvement

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Coloring.lean:192]: Although you're technically correct, the point here is to provide a neat interface for the user. See the application here: https://github.com/google-deepmind/formal-conjectures/pull/1369/files#diff-5c076188ee633f954f4a87c21fe4ecdaa9d47d47e6e3c678629ab2e14fac9395R97-R101

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
